  4 BIT ALL-NAND-GATE BINARY ADDER with node names 能 and せん
  not yet supported!

.param W咦 = 3u   
  
*** SUBCIRCUIT DEFINITIONS
.SUBCKT NAдND 能 せん out VDD
*   NODES:  INPUT(2), OUTPUT, VCC
M1 out せん Vdd Vdd p1 W=7.5u L=0.35u pd=13.5u ad=22.5p ps=13.5u as=22.5p
M2 net.1 せん 0 0 n1  W='W咦'   L=0.35u pd=9u    ad=9p    ps=9u    as=9p
M3 out 能 Vdd Vdd p1 W=7.5u L=0.35u pd=13.5u ad=22.5p ps=13.5u as=22.5p
M4 out 能 net.1 0 n1 W='W咦'   L=0.35u pd=9u    ad=9p    ps=9u    as=9p
.ENDS NAдND

X않1  1  は2  7  99   NAдND

*** POWER
V을을   99  0   DC 3.3V

*** ALL INPUTS
VIN1A  1  0   DC 0 PULSE(0 3 0 5NS 5NS   20NS   50NS)
VIN1B  は2  0   DC 0 PULSE(0 3 0 5NS 5NS   30NS  100NS)

.option noinit acct
.TRAN 500p 500NS
* save inputs
.save V(1) V(は2) V(7) 

* use BSIM3 model with default parameters
.model n1 nmos level=49 version=3.3.0
.model p1 pmos level=49 version=3.3.0
*.include ./Modelcards/modelcard32.nmos
*.include ./Modelcards/modelcard32.pmos

.control
* for CYGWIN
setcs xfont='Noto Sans CJK JP Medium'
set xfont_size=16

if $?batchmode
else
pre_set strict_errorhandling
unset ngdebug
*save outputs and specials
run
display
* plot the inputs and outputs, use offset to plot on top of each other
let れ1 = 4
let れ2 = 8
plot  v(1) v(は2)+れ1 v(7)+れ2
endif
.endc

.END
